US07943788B2
5-Bromo-1-(5-(3-chlorophenyl)-2-thienylmethyl)-2-methylbenzene
2-(3-Chlorophenyl)thiophene obtained in Reference Example 85-(1) and 5-bromo-2-methylbenzoic acid obtained in Reference Example 4-(1) were treated in a manner similar to Reference Example 5 to give the target compound as colorless oil.

reactant | 2-(3-Chlorophenyl)thiophene | ClC=1C=C(C=CC1)C=1SC=CC1 | C10H7ClS
reactant | 5-bromo-2-methylbenzoic acid | BrC=1C=CC(=C(C(=O)O)C1)C | C8H7BrO2
product | 5-Bromo-1-(5-(3-chlorophenyl)-2-thienylmethyl)-2-methylbenzene | BrC=1C=CC(=C(C1)CC=1SC(=CC1)C1=CC(=CC=C1)Cl)C | C18H14BrClS
